US05523456
Step D: Preparation of N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine-methionine methyl ester
N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine (2.29 g, 5.53 mmol), dissolved in DMF (20 mL), was treated with HOBT (0.822 g, 6.08 mmol), EDC (1.17 g, 6.08 mmol), and methionine methyl ester hydrochloride (1.21 g, 6.08 mmol). The pH was adjusted to 7.5 with Et3N (1.7 mL, 12 mmol) and the mixture was stirred at ambient temperature for 24 h. The mixture was concentrated, and the residue was partitioned between EtOAc (50 mL) and saturated NaHCO3 solution (25 mL). The aqueous layer was extracted with EtOAc (1×30 mL). The organic layers were combined, washed with brine (1×25 mL), dried (Na2SO4), filtered, and concentrated to give 3.2 g of crude product which was purified by chromatography (silica gel eluting with 1:3 to 1:2 ethyl acetate in hexane) to give pure product. 1H NMR (CD3OD) δ8.33 (1H, d, J=6 Hz), 7.90 (1H, d, J=6 Hz), 7.82 (1H, d, J=6 Hz), 7.61-7.39 (4H, m), 6.60-6.52 (1H, m), 4.32-4.06 (2H, m), 3.90-3.69 (1H, m), 3.65 (3H, s), 3.27-3.14 (2H, m), 2.93-2.70 (2H, m), 2.19-1.78 (6H, m), 1.63-1.30 (13H, m), 1.19-1.05 (1H, m), 0.95-0.81 (6H, m) ppm.

reactant | N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine | 5.53 mmol, 2.29 g | C(C)(C)(C)OC(=O)N[C@H](CN(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H](CC)C | C24H34N2O4
reactant | HOBT | 6.08 mmol, 0.822 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 6.08 mmol, 1.17 g
reactant | methionine methyl ester hydrochloride | 6.08 mmol, 1.21 g | Cl.COC([C@@H](N)CCSC)=O
reactant | Et3N | 12 mmol, 1.7 mL | CCN(CC)CC | C6H15N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-[2(S)-(t-Butoxycarbonylamino)-3(S)-methylpentyl]-N-(1-naphthylmethyl)glycine methionine methyl ester | 3.2 g | C(C)(C)(C)OC(=O)N[C@H](CN(CC(=O)O)CC1=CC=CC2=CC=CC=C12)[C@H](CC)C.COC([C@@H](N)CCSC)=O | InChI=1S/C24H34N2O4.C6H13NO2S/c1-6-17(2)21(25-23(29)30-24(3,4)5)15-26(16-22(27)28)14-19-12-9-11-18-10-7-8-13-20(18)19;1-9-6(8)5(7)3-4-10-2/h7-13,17,21H,6,14-16H2,1-5H3,(H,25,29)(H,27,28);5H,3-4,7H2,1-2H3/t17-,21+;5-/m00/s1
